US07495103B2
A mixture of 4-methyl-1-(phenylamino)-pentan-3-ol (22 g, 0.11 mol) in 98% H2SO4 (250 mL) was stirred at 50° C. for 30 min. The reaction mixture was poured into ice-water basified with sat. NaOH solution to pH 8 and extracted with CH2Cl2. The combined organic phases were washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography (petroleum ether) to afford 5,5-dimethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepine as a brown oil (1.5 g, 8%).

reactant | 4-methyl-1-(phenylamino)-pentan-3-ol | 0.11 mol, 22 g | CC(C(CCNC1=CC=CC=C1)O)C | C12H19NO
reactant | NaOH | [OH-].[Na+]
solvent | H2SO4 | 250 mL | OS(=O)(=O)O | H2O4S
product | 5,5-dimethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepine | 1.5 g, 8% | CC1(C2=C(NCCC1)C=CC=C2)C | C12H17N
